US04870064
Diethyl cyanomethylphosphonate (1.42 g) was dissolved in dimethylformamide (50 ml), and sodium hydride (0.32 g; 60% dispersion in mineral oil) was added thereto at 0° C. under cooling. After the foaming ceased, 3-chloro-4,5-dipropargyloxybenzaldehyde (2.00 g) was added to the reaction mixture, which was stirred at room temperature overnight, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2-(3-chloro-4,5-dipropargyloxyphenyl)acrylonitrile (1.85 g). m.p., 110°-111° C.

reactant | Diethyl cyanomethylphosphonate | 1.42 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | 3-chloro-4,5-dipropargyloxybenzaldehyde | 2.00 g | ClC=1C=C(C=O)C=C(C1OCC#C)OCC#C | C13H9ClO3
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(3-chloro-4,5-dipropargyloxyphenyl)acrylonitrile | 1.85 g | ClC=1C=C(C=C(C1OCC#C)OCC#C)C(C#N)=C | C15H10ClNO2
